US06127359
a) 2-fluoro-5-nitro-benzaldehyde ethylene ketal
A solution of 2-fluoro-5-nitro-benzaldehyde (25.0 g, 148 mmol), ethylene glycol (160 mL, 2.87 mol) in acetic acid (625 mL) was heated to 55° C. for 15 min. The temperature was then adjusted to 45° C., at which time BF3 --Et2O (20 mL, 20 mmol) was added dropwise (30 min). After an additionl 60 min at 45° C. the solution was cooled to room temperature, and poured onto ice (1 L). The resulting solid was filtered, pressed dry, and dried in vacuo to afford the title compound as white flakes (18.81 g, 60%). MS(ES) m/e 213 [M+H]+.

reactant | 2-fluoro-5-nitro-benzaldehyde | 148 mmol, 25.0 g | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | ethylene glycol | 2.87 mol, 160 mL | C(CO)O | C2H6O2
reactant | BF3 | B(F)(F)F | BF3
reactant | Et2O | 20 mmol, 20 mL | CCOCC | C4H10O
solvent | acetic acid | 625 mL | C(C)(=O)O | C2H4O2
product | 2-fluoro-5-nitro-benzaldehyde ethylene ketal | C1COC(C2=C(C=CC(=C2)[N+](=O)[O-])F)O1 | C9H8FNO4
